US06548703B1
A dispersion of 6.5 g of 2-hydroxy-3-phenylaminocarbonyl-6-chlorocarbonylnaphthalene in 20.0 g of dry tetrahydrofuran was added with 9.2 g of n-hexadecylamine solution in 30 g of dry tetrahydrofuran and reacted under reflux for 12 hours. To the reaction mixture, 30 g of water was added and the precipitates were collected by filtration, washed with water and thus obtained crystal was washed with 30 g of methanol under reflux. The obtained mixture was cooled to 30° C. and filtrated, washed with methanol and dried to provide 3.8 g of 2-hydroxy-3-phenylaminocarbonyl-6-n-hexadecylaminocarbonyl naphthalene (decomposition point: 257.2° C.).

reactant | 2-hydroxy-3-phenylaminocarbonyl-6-chlorocarbonylnaphthalene | 6.5 g | OC1=CC2=CC=C(C=C2C=C1C(=O)NC1=CC=CC=C1)C(=O)Cl | C18H12ClNO3
reactant | n-hexadecylamine | 9.2 g | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | water | 30 g | O | H2O
solvent | tetrahydrofuran | 20.0 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
product | 2-hydroxy-3-phenylaminocarbonyl-6-n-hexadecylaminocarbonyl naphthalene | 3.8 g | OC1=CC2=CC=C(C=C2C=C1C(=O)NC1=CC=CC=C1)C(=O)NCCCCCCCCCCCCCCCC | C34H46N2O3
